* source DISTORTION_PEDAL_SIM
E_U1         AMP_S1 0 VALUE {LIMIT(V(N00287,AMP_S1)*1E6,0V,9V)}
V_V1         N00103 0  AC 1
+SIN 0 0.5 40 0 0 0
C_C1         N00103 N00287  47u  TC=0,0 
V_V2         N00411 0 9Vdc
R_R1         N00426 N00411  100k TC=0,0 
R_R2         0 N00426  100k TC=0,0 
R_R3         N00287 VGND  10k TC=0,0 
E_U2         AMP_S1_CLEAN 0 VALUE {LIMIT(V(VGND,N01161)*1E6,0V,9V)}
R_R4         AMP_S1 N01161  10k TC=0,0 
R_R5         N01161 AMP_S1_CLEAN  10k TC=0,0 
R_R6         N01459 AMP_S1_DIST  50k TC=0,0 
R_R7         AMP_S1 N01459  5k TC=0,0 
E_U3         AMP_S1_DIST 0 VALUE {LIMIT(V(VGND,N01459)*1E6,0V,9V)}
D_D7         AMP_S1_DIST N01459 D1N4004 
D_D9         N01459 AMP_S1_DIST D1N4004 
E_U4         N06766 0 VALUE {LIMIT(V(VGND,N06596)*1E6,0V,9V)}
R_R9         N06596 N06766  25k TC=0,0 
C_C2         N06766 OUT  47u  TC=0,0 
R_R10         OUT 0  10k TC=0,0 
R_R11         AMP_S1_CLEAN N06596  {r_pot} TC=0,0 
R_R12         N06596 AMP_S1_DIST  50k-{r_pot} TC=0,0 
E_U5         VGND 0 VALUE {LIMIT(V(N00426,VGND)*1E6,0V,9V)}
.PARAM  r_pot=15k
