* source DISTORTION_PEDAL_SIM
E_U1         AMP_S1 0 VALUE {LIMIT(V(N00287,AMP_S1)*1E6,0V,9V)}
V_V1         N00103 0  AC 1
+SIN 0 0.5 40 0 0 0
C_C1         N00103 N00287  47u  TC=0,0 
V_V2         SUPPLY 0 9Vdc
R_R1         N00426 SUPPLY  50k TC=0,0 
R_R2         0 N00426  50k TC=0,0 
R_R3         N00287 VGND  50k TC=0,0 
E_U2         AMP_S1_CLEAN 0 VALUE {LIMIT(V(VGND,N01161)*1E6,0V,9V)}
R_R4         AMP_S1 N01161  25k TC=0,0 
R_R5         N01161 AMP_S1_CLEAN  {set_pot1} TC=0,0 
R_R6         N01459 AMP_S1_DIST  {set_pot2} TC=0,0 
R_R7         AMP_S1 N01459  25k TC=0,0 
E_U3         AMP_S1_DIST 0 VALUE {LIMIT(V(VGND,N01459)*1E6,0V,9V)}
D_D7         AMP_S1_DIST N01459 D1N4004 
D_D9         N01459 AMP_S1_DIST D1N4004 
C_C2         N12591 OUT  47u  TC=0,0 
R_R10         OUT 0  10k TC=0,0 
R_R11         AMP_S1_CLEAN N12306  25k TC=0,0 
R_R12         AMP_S1_DIST N12273  25k TC=0,0 
E_U4         N12261 0 VALUE {LIMIT(V(VGND,N12273)*1E6,0V,9V)}
E_U5         N12294 0 VALUE {LIMIT(V(VGND,N12306)*1E6,0V,9V)}
R_R13         N12306 N12294  {set_pot3} TC=0,0 
R_R14         N12273 N12261  50k-{set_pot3} TC=0,0 
E_U6         N12591 0 VALUE {LIMIT(V(VGND,N12603)*1E6,0V,9V)}
R_R15         N12294 N12603  25k TC=0,0 
R_R16         N12261 N12603  25k TC=0,0 
R_R17         N12603 N12591  25k TC=0,0 
E_U7         VGND 0 VALUE {LIMIT(V(N00426,VGND)*1E6,0V,9V)}
.PARAM  set_pot1=25k set_pot3=5k set_pot2=50k
